### PR TITLE
[Merged by Bors] - feat(InformationTheory): chain rule for the Kullback-Leibler divergence

### PR DESCRIPTION
**Pull request by RemyDegenne**
`klDiv (μ ⊗ₘ κ) (ν ⊗ₘ η) = klDiv μ ν + klDiv (μ ⊗ₘ κ) (μ ⊗ₘ η)`

---

- [x] depends on: #35014
- [x] depends on: #35015
- [x] depends on: #36197

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 1]
```diff
@@ -0,0 +1,250 @@
...
+* `klDiv_compProd_eq_add`: `klDiv (μ ⊗ₘ κ) (ν ⊗ₘ η) = klDiv μ ν + klDiv (μ ⊗ₘ κ) (μ ⊗ₘ η)`
+* `klDiv_compProd_left`: `klDiv (μ ⊗ₘ κ) (ν ⊗ₘ κ) = klDiv μ ν`
+
+## Proof
+
+The main ingredient is the chain rule for Radon-Nikodym derivatives:
+`∂(μ ⊗ₘ κ)/∂(ν ⊗ₘ η) = ∂μ/∂ν * ∂(μ ⊗ₘ κ)/∂(μ ⊗ₘ η)`.
+Then, omitting edge cases, the Kullback-Leibler divergence is an integral of a logarithm of the
+derivative on the left, which decomposes into a sum of two integrals of logarithms.
+We know give a more detailed outline of the proof.
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
We now give a more detailed outline of the proof.
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 2]
```diff
@@ -0,0 +1,250 @@
...
+    continuous_mul_log.stronglyMeasurable continuous_mul_log.continuousWithinAt h_int hκη_ac
+  exact (integrable_rnDeriv_mul_log_iff hμν_ac).mp h_int
+
+lemma rnDeriv_compProd_mul_log_eq_mul_add (h_ac : μ ⊗ₘ κ ≪ μ ⊗ₘ η) :
+    ∀ᵐ p ∂(ν ⊗ₘ η), ((∂μ ⊗ₘ κ/∂ν ⊗ₘ η) p).toReal * log ((∂μ ⊗ₘ κ/∂ν ⊗ₘ η) p).toReal =
+      (((∂μ ⊗ₘ κ/∂ν ⊗ₘ η) p).toReal * (log ((∂μ/∂ν) p.1).toReal +
+        log ((∂(μ ⊗ₘ κ)/∂(μ ⊗ₘ η)) p).toReal)) := by
+  filter_upwards [rnDeriv_compProd h_ac ν] with p hp
+  simp_rw [hp]
+  simp only [ENNReal.toReal_mul]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
  simp_rw [hp, ENNReal.toReal_mul]
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 3]
```diff
@@ -0,0 +1,250 @@
...
+lemma integrable_llr_compProd_iff (h_ac : μ ⊗ₘ κ ≪ ν ⊗ₘ η) :
+    Integrable (llr (μ ⊗ₘ κ) (ν ⊗ₘ η)) (μ ⊗ₘ κ) ↔
+      Integrable (llr μ ν) μ ∧ Integrable (llr (μ ⊗ₘ κ) (μ ⊗ₘ η)) (μ ⊗ₘ κ) := by
+  have ⟨h_ac_μν, h_ac_κη⟩ := Measure.absolutelyContinuous_compProd_iff.mp h_ac
+  rw [← integrable_rnDeriv_mul_log_iff h_ac,
+    integrable_congr (rnDeriv_compProd_mul_log_eq_mul_add h_ac_κη)]
+  have : Integrable (fun x ↦ ((∂μ ⊗ₘ κ/∂ν ⊗ₘ η) x).toReal *
+        (log ((∂μ/∂ν) x.1).toReal + log ((∂μ ⊗ₘ κ/∂μ ⊗ₘ η) x).toReal)) (ν ⊗ₘ η) ↔
+      Integrable (fun x ↦ (log ((∂μ/∂ν) x.1).toReal + log ((∂μ ⊗ₘ κ/∂μ ⊗ₘ η) x).toReal))
+        (μ ⊗ₘ κ) := integrable_rnDeriv_smul_iff h_ac
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]: Maybe you could add `integrable_rnDeriv_mul_iff` to be able to rewrite directly?

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 4]
```diff
@@ -0,0 +1,250 @@
...
+  rw [this]
+  have h_iff_κ : Integrable (llr μ ν) μ ↔ Integrable (fun x ↦ llr μ ν x.1) (μ ⊗ₘ κ) := by
+    rw [Measure.integrable_compProd_iff]
+    swap; · exact StronglyMeasurable.aestronglyMeasurable (by fun_prop)
+    simp only [ne_eq, enorm_ne_top, not_false_eq_true, integrable_const_enorm,
+      Filter.eventually_true, norm_eq_abs, integral_const, probReal_univ, smul_eq_mul, one_mul,
+      true_and]
+    rw [← integrable_norm_iff (by fun_prop)]
+    simp
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]: Once again `norm_eq_abs` being `simp` makes things more complicated.
```suggestion
    simp only [ne_eq, enorm_ne_top, not_false_eq_true, integrable_const_enorm,
      Filter.eventually_true, integral_const, probReal_univ, smul_eq_mul, one_mul, true_and]
    rw [← integrable_norm_iff (by fun_prop)]
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 5]
```diff
@@ -0,0 +1,250 @@
...
+  rw [h_iff_κ]
+  -- Goal of the form `Integrable (f + g) ↔ Integrable f ∧ Integrable g`
+  refine ⟨fun h_int ↦ ?_, fun ⟨h_int1, h_int2⟩ ↦ h_int1.add h_int2⟩
+  -- We now prove `Integrable (f + g) → Integrable f ∧ Integrable g`.
+  -- We have one of those implications from the lemma `integrable_llr_of_integrable_llr_compProd`,
+  -- say `Integrable (f + g) → Integrable f`.
+  -- But given `Integrable f`, we have `Integrable (f + g) ↔ Integrable g` and thus we can also
+  -- conclude `Integrable g`.
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean:135]: Can you use [MeasureTheory.integrable_add_iff_integrable_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/L1Space/Integrable.html#MeasureTheory.integrable_add_iff_integrable_left) or something like that to shorten the proof?

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 6]
```diff
@@ -0,0 +1,250 @@
...
+      ∫ a, llr μ ν a ∂μ + ∫ p, llr (μ ⊗ₘ κ) (μ ⊗ₘ η) p ∂(μ ⊗ₘ κ) := by
+  have ⟨h_ac_μν, h_ac_κη⟩ := Measure.absolutelyContinuous_compProd_iff.mp h_ac
+  have ⟨h_int_μν, h_int_κη⟩ := (integrable_llr_compProd_iff h_ac).mp h_int
+  have h_int1 : Integrable (fun p ↦ log ((∂μ/∂ν) p.1).toReal) (μ ⊗ₘ κ) := by
+    rw [Measure.integrable_compProd_iff]
+    · simp only [ne_eq, enorm_ne_top, not_false_eq_true, integrable_const_enorm,
+        Filter.eventually_true, norm_eq_abs, integral_const, probReal_univ, smul_eq_mul, one_mul,
+        true_and]
+      rw [← integrable_norm_iff (by fun_prop)] at h_int_μν
+      convert h_int_μν
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
    · simp only [ne_eq, enorm_ne_top, not_false_eq_true, integrable_const_enorm,
      Filter.eventually_true, integral_const, probReal_univ, smul_eq_mul, one_mul, true_and]
      rwa [← integrable_norm_iff (by fun_prop)] at h_int_μν
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 7]
```diff
@@ -0,0 +1,250 @@
...
+    integral_rnDeriv_smul h_ac
+  _ = ∫ p, log ((∂μ/∂ν) p.1).toReal ∂(μ ⊗ₘ κ) +
+      ∫ p, log ((∂μ ⊗ₘ κ/∂μ ⊗ₘ η) p).toReal ∂(μ ⊗ₘ κ) := by
+    rw [integral_add h_int1]
+    exact h_int_κη.ofReal
+  _ = ∫ a, llr μ ν a ∂μ + ∫ p, llr (μ ⊗ₘ κ) (μ ⊗ₘ η) p ∂(μ ⊗ₘ κ) := by
+    congr
+    rw [Measure.integral_compProd h_int1]
+    simp only [integral_const, probReal_univ, smul_eq_mul, one_mul]
+    rfl
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
    simp [llr]
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 8]
```diff
@@ -0,0 +1,250 @@
...
+variable (μ ν κ) in
+@[simp]
+lemma klDiv_compProd_left : klDiv (μ ⊗ₘ κ) (ν ⊗ₘ κ) = klDiv μ ν := by
+  -- first, if we don't have absolute continuity, both sides are `∞`
+  by_cases h_ac : μ ⊗ₘ κ ≪ ν ⊗ₘ κ
+  swap
+  · rw [klDiv_of_not_ac h_ac, klDiv_of_not_ac]
+    rwa [Measure.absolutelyContinuous_compProd_left_iff] at h_ac
+  -- we can now express the KL divergences with an integral of a log-likelihood ratio
+  rw [klDiv_eq_lintegral_klFun, if_pos h_ac, klDiv_eq_lintegral_klFun,
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]: I'd say it's worth to have a lemma combining `klDiv_eq_lintegral_klFun` and `if_pos`.

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 9]
```diff
@@ -0,0 +1,250 @@
...
+    if_pos (Measure.absolutelyContinuous_compProd_left_iff.mp h_ac)]
+  rw [Measure.absolutelyContinuous_compProd_left_iff] at h_ac
+  have h_ae_eq := rnDeriv_measure_compProd_left μ ν κ
+  calc ∫⁻ p, ENNReal.ofReal (klFun ((∂μ ⊗ₘ κ/∂ν ⊗ₘ κ) p).toReal) ∂(ν ⊗ₘ κ)
+  _ = ∫⁻ p, ENNReal.ofReal (klFun ((∂μ/∂ν) p.1).toReal) ∂(ν ⊗ₘ κ) := by
+    refine lintegral_congr_ae ?_
+    filter_upwards [h_ae_eq] with p hp using by simp_rw [hp]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
  calc ∫⁻ p, ENNReal.ofReal (klFun ((∂μ ⊗ₘ κ/∂ν ⊗ₘ κ) p).toReal) ∂(ν ⊗ₘ κ)
  _ = ∫⁻ p, ENNReal.ofReal (klFun ((∂μ/∂ν) p.1).toReal) ∂(ν ⊗ₘ κ) := by
    refine lintegral_congr_ae ?_
    filter_upwards [rnDeriv_measure_compProd_left μ ν κ] with p hp using by simp_rw [hp]
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 10]
```diff
@@ -0,0 +1,250 @@
...
+    | inr h => simp [h]
+  -- now we can use express the KL divergences with an integral of a log-likelihood ratio
+  have ⟨h_ac_μν, h_ac_κη⟩ := Measure.absolutelyContinuous_compProd_iff.mp h_ac
+  have ⟨h_int_μν, h_int_κη⟩ := (integrable_llr_compProd_iff h_ac).mp h_int
+  rw [klDiv_of_ac_of_integrable h_ac h_int, klDiv_of_ac_of_integrable h_ac_μν h_int_μν,
+    klDiv_of_ac_of_integrable h_ac_κη h_int_κη]
+  rw [← ENNReal.ofReal_add (integral_llr_add_sub_measure_univ_nonneg h_ac_μν h_int_μν)
+    (integral_llr_add_sub_measure_univ_nonneg h_ac_κη h_int_κη)]
+  simp_rw [measureReal_def, Measure.compProd_apply_univ]
+  rw [add_sub_cancel_right]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
  simp_rw [klDiv_of_ac_of_integrable h_ac h_int, klDiv_of_ac_of_integrable h_ac_μν h_int_μν,
    klDiv_of_ac_of_integrable h_ac_κη h_int_κη,
    ← ENNReal.ofReal_add (integral_llr_add_sub_measure_univ_nonneg h_ac_μν h_int_μν)
    (integral_llr_add_sub_measure_univ_nonneg h_ac_κη h_int_κη), measureReal_def,
    Measure.compProd_apply_univ, add_sub_cancel_right]
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean:135]: The proof already uses `integrable_add_iff_integrable_right'`

Comment (EtienneC30) [reply Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean:135]: Yes sorry I saw it afterwards but forgot to remove my comment.

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 11]
```diff
@@ -0,0 +1,238 @@
...
+  · simp [h_zero2]
+  simp [log_mul h_zero1 h_zero2]
+
+lemma integrable_llr_compProd_iff (h_ac : μ ⊗ₘ κ ≪ ν ⊗ₘ η) :
+    Integrable (llr (μ ⊗ₘ κ) (ν ⊗ₘ η)) (μ ⊗ₘ κ) ↔
+      Integrable (llr μ ν) μ ∧ Integrable (llr (μ ⊗ₘ κ) (μ ⊗ₘ η)) (μ ⊗ₘ κ) := by
+  have ⟨h_ac_μν, h_ac_κη⟩ := Measure.absolutelyContinuous_compProd_iff.mp h_ac
+  rw [← integrable_rnDeriv_mul_log_iff h_ac,
+    integrable_congr (rnDeriv_compProd_mul_log_eq_mul_add h_ac_κη)]
+  rw [integrable_toReal_rnDeriv_mul_iff h_ac]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
    integrable_congr (rnDeriv_compProd_mul_log_eq_mul_add h_ac_κη),
    integrable_toReal_rnDeriv_mul_iff h_ac]
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 12]
```diff
@@ -0,0 +1,238 @@
...
+  -- We have one of those implications from the lemma `integrable_llr_of_integrable_llr_compProd`,
+  -- say `Integrable (f + g) → Integrable f`.
+  -- But given `Integrable f`, we have `Integrable (f + g) ↔ Integrable g` and thus we can also
+  -- conclude `Integrable g`.
+  have h_int_iff : Integrable (llr (μ ⊗ₘ κ) (ν ⊗ₘ η)) (μ ⊗ₘ κ) ↔
+      Integrable (fun x ↦ log ((∂μ/∂ν) x.1).toReal +
+        log ((∂μ ⊗ₘ κ/∂μ ⊗ₘ η) x).toReal) (μ ⊗ₘ κ) := by
+    have ⟨h_ac_μν, h_ac_κη⟩ := Measure.absolutelyContinuous_compProd_iff.mp h_ac
+    rw [← integrable_rnDeriv_mul_log_iff h_ac,
+     integrable_congr (rnDeriv_compProd_mul_log_eq_mul_add h_ac_κη)]
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
      integrable_congr (rnDeriv_compProd_mul_log_eq_mul_add h_ac_κη)]
```

File: Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean [hunk 13]
```diff
@@ -0,0 +1,238 @@
...
+    exact integrable_toReal_rnDeriv_mul_iff h_ac
+  rw [← h_int_iff] at h_int
+  have h_int1 := integrable_llr_of_integrable_llr_compProd h_ac h_int
+  rw [h_iff_κ] at h_int1
+  rw [h_int_iff, integrable_add_iff_integrable_right'] at h_int
+  · refine ⟨h_int1, h_int⟩
```
Comment (EtienneC30) [inline Mathlib/InformationTheory/KullbackLeibler/ChainRule.lean]:
```suggestion
  have h_int1 := integrable_llr_of_integrable_llr_compProd h_ac (h_int_iff.2 h_int)
  rw [h_iff_κ] at h_int1
  rw [integrable_add_iff_integrable_right'] at h_int
  · exact ⟨h_int1, h_int⟩
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate
